US09304394B2
5-(4-methoxy-3-(2-(2-((2-methyladamantan-2-yl)oxy)-2-oxoethoxy)-2-oxoethyl)phenyl)-dibenzothiophenium chloride
5-(3-(carboxymethyl)-4-methoxyphenyl)-dibenzothiophenium iodide (15.0 g, 31.5 mmol) was dissolved in DMF (100 mL) and degassed with nitrogen for 30 min, then 2-methyladamantan-2-yl 2-chloroacetate (7.49 g, 31.0 mmol) and cesium carbonate (14.4 g, 44.1 mmol) were added sequentially and the mixture stirred at 25° C. for 6 h. The solution was diluted with water (200 mL), extracted with DCM (2×150 mL), the combined organic layers washed with water (5×150 mL) and concentrated to a viscous oil which was poured onto MTBE (1 L) and vigorously stirred for 1 h. The precipitate was filtered, washed with MTBE (2×250 mL) and dried to afford the title compound (18.2 g, 99%) as a white solid. 1H NMR (300 MHz, (CD3)2SO) δ: 8.51 (d, J=8.1 Hz, 2H), 8.29 (d, J=8.1 Hz, 2H), 7.95 (t, J=7.5 Hz, 2H), 7.70-7.81 (m, 3H), 7.32 (d, J=2.1 Hz, 1H), 7.25 (dd, J=7.5, 2.1 Hz, 1H), 4.56 (s, 2H), 3.82 (s, 3H), 3.65 (s, 2H), 2.10-2.19 (m, 2H), 1.61-1.95 (m, 11H), 1.52 (s, 3H), 1.39-1.50 (m, 2H).

reactant | 5-(3-(carboxymethyl)-4-methoxyphenyl)-dibenzothiophenium iodide | 31.5 mmol, 15.0 g | [I-].C(=O)(O)CC=1C=C(C=CC1OC)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2
reactant | 2-methyladamantan-2-yl 2-chloroacetate | 31.0 mmol, 7.49 g | ClCC(=O)OC1(C2CC3CC(CC1C3)C2)C | C13H19ClO2
reactant | cesium carbonate | 44.1 mmol, 14.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 5-(4-methoxy-3-(2-(2-((2-methyladamantan-2-yl)oxy)-2-oxoethoxy)-2-oxoethyl)phenyl)-dibenzothiophenium chloride | 18.2 g, 99% | [Cl-].COC1=C(C=C(C=C1)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)CC(=O)OCC(=O)OC2(C3CC1CC(CC2C1)C3)C | InChI=1S/C34H35O5S.ClH/c1-34(24-14-21-13-22(16-24)17-25(34)15-21)39-33(36)20-38-32(35)19-23-18-26(11-12-29(23)37-2)40-30-9-5-3-7-27(30)28-8-4-6-10-31(28)40;/h3-12,18,21-22,24-25H,13-17,19-20H2,1-2H3;1H/q+1;/p-1
